US07169775B2
(1-Butyl-2-iodo-4-phenyl-3H-imidazol-5-yl)-methanol (1.96 g) is dissolved in 20 mL of CH2Cl2. 5 equivalents of SOCl2 are added at 0° C. The solution is stirred at room temperature for 2 hours and then evaporated to dryness. The residue is dissolved in 20 mL of toluene and again evaporated to dryness in order to remove the remaining SOCl2. The crude product is dissolved in 5 mL DMF and added to an ice-cold solution of piperonyl amine (2 equivalents) in 10 mL DMF containing 2.0 equivalents K2CO3. The reaction mixture is stirred overnight at room temperature. The reaction is quenched with 20 mL water, extracted with ethyl acetate (3×30 mL), washed with water and brine, and dried over Na2SO4. Concentration and purification by silica gel chromatography gives [1,3]dioxol-5-ylmethyl-(1-butyl-2-iodo-4-phenyl-3H-imidazol-5-ylmethyl)-amine.

reactant | (1-Butyl-2-iodo-4-phenyl-3H-imidazol-5-yl)-methanol | 1.96 g | C(CCC)N1C(NC(=C1CO)C1=CC=CC=C1)I | C14H19IN2O
reactant | SOCl2 | 5 equivalents | O=S(Cl)Cl | Cl2OS
reactant | piperonyl amine | 2 equivalents | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | DMF | 10 mL, 2.0 equivalents | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | [1,3]dioxol-5-ylmethyl-(1-butyl-2-iodo-4-phenyl-3H-imidazol-5-ylmethyl)-amine | O1COC=C1CNCC1=C(NC(N1CCCC)I)C1=CC=CC=C1 | C18H24IN3O2
